US05872136
Step C: 2-(3-Trifluoromethoxyphenyl)-5-hydroxymethylpyridine
To a solution of 2-(3-trifluoromethoxyphenyl)-5-carboxy pyridine (2.0 g, 7.06 mmol) in tetrahydrofuran (15 mL) at 0° C. was added 1.0M lithium aluminum hydride in tetrahydrofuran (7.07 mL, 7.07 mmol) over 10 minutes. The reaction was allowed to stir at ambient temperature for 4 hours, cooled to 0° C., and quenched by dropwise addition of saturated Na2SO4 (1.0 mL). The reaction was diluted with diethylether, filtered through a pad of Celite and the filtrate evaporated in vacuo. The residue was chromatographed (silica gel, 50% EtOAc in hexanes) to afford the title compound.

reactant | 2-(3-trifluoromethoxyphenyl)-5-carboxy pyridine | 7.06 mmol, 2.0 g | FC(OC=1C=C(C=CC1)C1=NC=C(C=C1)C(=O)O)(F)F | C13H8F3NO3
reactant | lithium aluminum hydride | 1.0M | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 7.07 mmol, 7.07 mL | O1CCCC1 | C4H8O
product | 2-(3-Trifluoromethoxyphenyl)-5-hydroxymethylpyridine | FC(OC=1C=C(C=CC1)C1=NC=C(C=C1)CO)(F)F | C13H10F3NO2
